US06028195
1-[N-(2-Methoxy-6,7-dihydro-5H-cyclopenta[b]pyridin-3-yl)aminothiocarbonyl]-4-(3,5-dimethylphenyl)piperazine
Phenyl N-(2-methoxy-6,7-dihydro-5H-cyclopenta[b]pyridin-3-yl)thiocarbamate and 1-(3,5-dimethylphenyl)piperazine were reacted by the same way with the example 22 to obtain the titled compound.

reactant | Phenyl N-(2-methoxy-6,7-dihydro-5H-cyclopenta[b]pyridin-3-yl)thiocarbamate | COC1=C(C=C2C(=N1)CCC2)NC(OC2=CC=CC=C2)=S | C16H16N2O2S
reactant | 1-(3,5-dimethylphenyl)piperazine | CC=1C=C(C=C(C1)C)N1CCNCC1 | C12H18N2
product | 1-[N-(2-Methoxy-6,7-dihydro-5H-cyclopenta[b]pyridin-3-yl)aminothiocarbonyl]-4-(3,5-dimethylphenyl)piperazine | yield: 53% | COC1=C(C=C2C(=N1)CCC2)NC(=S)N2CCN(CC2)C2=CC(=CC(=C2)C)C | C22H28N4OS
